US05616620
c) (R)-N5 -[Amino(nitroimino) methyl]-N2 -(diphenylacetyl)-N-[[4-(hydroxymethyl)-phenyl]methyl]-ornithinamide
Prepared analogously to Example 5f) from (R)-N5 -[amino(nitroimino)methyl]-N-[[4-(hydroxymethyl)phenyl]methyl]-ornithinamide, diphenylacetic acid and TBTU in a yield of 79% of theory.

reactant | (R)-N5 -[amino(nitroimino)methyl]-N-[[4-(hydroxymethyl)phenyl]methyl]-ornithinamide | NC(NCCC[C@@H](N)C(=O)NCC1=CC=C(C=C1)CO)=N[N+](=O)[O-] | C14H22N6O4
reactant | diphenylacetic acid | C1(=CC=CC=C1)C(C(=O)O)C1=CC=CC=C1 | C14H12O2
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
product | (R)-N5 -[Amino(nitroimino) methyl]-N2 -(diphenylacetyl)-N-[[4-(hydroxymethyl)-phenyl]methyl]-ornithinamide | yield of 79% | NC(NCCC[C@@H](NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)NCC1=CC=C(C=C1)CO)=N[N+](=O)[O-] | C28H32N6O5
